US04845293
Preparation of 4-chloro-2-(β-diethylaminoethyl)amino-6-(β-diethylaminoethyl)aminonitrobenzene
0.2 mole (45.3 g) of 2,4,6-trichloronitrobenzene is added in small portions to 180 ml of N,N-diethylethylenediamine heated to 60° C., with stirring. Heating is continued for 30 minutes after the addition is complete. The reaction medium is diluted with 180 ml of ice-cold water. The product expected precipitates. It is drained, washed with water and then dried under vacuum at 60° C. in the presence of phosphorous pentoxide. After recrystallizing from 96° ethanol, it melts at 90° C.

reactant | 2,4,6-trichloronitrobenzene | 0.2 mole, 45.3 g | ClC1=C(C(=CC(=C1)Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | N,N-diethylethylenediamine | 180 ml | C(C)N(CCN)CC | C6H16N2
product | 4-chloro-2-(β-diethylaminoethyl)amino-6-(β-diethylaminoethyl)aminonitrobenzene | ClC1=CC(=C(C(=C1)NCCN(CC)CC)[N+](=O)[O-])NCCN(CC)CC | C18H32ClN5O2
